US06916822B2
(a) 1-Benzyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine
4-Amino-1-benzylpiperidine (0.20 ml) was dissolved in dimethyl sulfoxide (0.2 ml), added with 2-chloro-3-nitrotoluene (0.13 ml) and stirred at 100° C. for 19 hours. The reaction mixture was added with water (2 ml) and extracted twice with ethyl acetate (2 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=3:1) to obtain 51.1 mg of the title compound. Yield: 16%.

reactant | 4-Amino-1-benzylpiperidine | 0.20 ml | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | 2-chloro-3-nitrotoluene | 0.13 ml | ClC1=C(C=CC=C1[N+](=O)[O-])C | C7H6ClNO2
reactant | water | 2 ml | O | H2O
solvent | dimethyl sulfoxide | 0.2 ml | CS(=O)C | C2H6OS
product | 1-Benzyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine | 51.1 mg, Yield: 16% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C19H23N3O2
